US08461134B2
Pyridine (1.5 equiv) was added dropwise to the cooled suspension of the crude 2-bromo-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (24 g, 0.06 mol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (1.2 eq) in acetonitrile (300 ml) at 0° C. over 10 min. The r×n mix was stirred overnight. The solid was filtered and washed with EtOAc. The filtrate was washed with, H2O, brine, dried over MgSO4, filtered, and concentrated to dryness to give crude N-(3-bromo-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide which was purified by flash chromatography on silica gel. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 11.6 (s, 1H), 10.56 (s, 1H), 9.20 (s, 1H), 8.12 (d, J=1.9 Hz, 1H), 8.06 (d, J=8.8 Hz, 1H), 7.79 (dd, J=2.0, 8.6 Hz, 1H), 7.47 (d, J=1.8 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H), 7.20 (dd, J=1.9, 8.3 Hz, 1H), 4.85 (s, 2H). MS (ESI) m/z=479 (M+1).

reactant | Pyridine | 1.5 equiv | N1=CC=CC=C1 | C5H5N
reactant | 2-bromo-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 0.06 mol, 24 g | BrC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C8H4BrClF3NO3S
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 1.2 eq | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | N-(3-bromo-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)NC(C(F)(F)F)=O | C15H11BBrF3N2O5S
